US05180418
While stirring at a temperature of from +25° to +30° C., a solution of 12 g of 1-(5-amino-2-chloro-4-fluoro-phenylthio)-cyclobutanecarboxylic acid methyl ester obtained in accordance with Example P1 in 30 ml of ethylene chloride is added dropwise to a mixture of 12 g of calcium carbonate and 8 ml of thiophosgene in 40 ml of ethylene chloride and 40 ml of water. The reaction mixture is then stirred for 18 hours. After filtering off the resulting precipitate, the organic phase is dried over calcium chloride and then concentrated in vacuo, yielding 13.1 g of 2-(2-chloro-4-fluoro-5-isothiocyanatophenylthio)-cyclobutanecarboxylic acid methyl ester in the form of an oil.

reactant | 1-(5-amino-2-chloro-4-fluoro-phenylthio)-cyclobutanecarboxylic acid methyl ester | 12 g | COC(=O)C1(CCC1)SC1=C(C=C(C(=C1)N)F)Cl | C12H13ClFNO2S
reactant | calcium carbonate | 12 g | C([O-])([O-])=O.[Ca+2]
reactant | thiophosgene | 8 ml | C(=S)(Cl)Cl | CCl2S
reactant | ethylene chloride | 30 ml | C(CCl)Cl | C2H4Cl2
reactant | ethylene chloride | 40 ml | C(CCl)Cl | C2H4Cl2
solvent | water | 40 ml | O | H2O
product | 2-(2-chloro-4-fluoro-5-isothiocyanatophenylthio)-cyclobutanecarboxylic acid methyl ester | 13.1 g | COC(=O)C1C(CC1)SC1=C(C=C(C(=C1)N=C=S)F)Cl | C13H11ClFNO2S2
